US08648066B2
1-{6,6-dimethyl-4-[7-(2-methyl-1H-imidazo[4,5-b]pyridin-6-yl)-2,3-dihydro-1,4-benzoxazepin-4(5H)-yl]-5,6,7,8-tetrahydroquinazolin-2-yl}-N-methylmethanamine.
Prepared by the method of example 6 using 2-methylpropyl 2-methyl-6-(2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)-1H-imidazo[4,5-b]pyridine-1-carboxylate and N-((4-chloro-6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-2-yl)methyl)-N-methyl-2-nitrobenzenesulfonamide (reagent preparation 17) in step 3 followed by 2-nitrobenzenesulfonyl-group deprotection. 1H NMR (400 MHz, DMSO-d6) δ 8.53 (br s, 1H), 8.06 (br s, 1H), 7.75 (d, 1H), 7.53 (dd, 1H), 7.01 (d, 1H), 4.68 (s, 2H), 4.33-4.27 (m, 2H), 3.91-3.85 (m, 2H), 3.48 (s, 2H), 2.68 (t, 2H), 2.54 (s, 3H), 2.45 (s, 2H), 2.12 (s, 3H), 1.59 (t, 2H), 0.87 (s, 6H); MS (EI) for C28H33N7O: 484 (MH+).

reactant | 2-methylpropyl 2-methyl-6-(2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)-1H-imidazo[4,5-b]pyridine-1-carboxylate | CC=1N(C=2C(=NC=C(C2)C=2C=CC3=C(CNCCO3)C2)N1)C(=O)OCC(C)C | C21H24N4O3
reactant | N-((4-chloro-6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-2-yl)methyl)-N-methyl-2-nitrobenzenesulfonamide | ClC1=NC(=NC=2CCC(CC12)(C)C)CN(S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])C | C18H21ClN4O4S
product | 1-{6,6-dimethyl-4-[7-(2-methyl-1H-imidazo[4,5-b]pyridin-6-yl)-2,3-dihydro-1,4-benzoxazepin-4(5H)-yl]-5,6,7,8-tetrahydroquinazolin-2-yl}-N-methylmethanamine | CC1(CC=2C(=NC(=NC2CC1)CNC)N1CCOC2=C(C1)C=C(C=C2)C=2C=C1C(=NC2)N=C(N1)C)C | C28H33N7O
